US06747023B1
5-(Pyridin-4-yl)pyrazine-2-carboxylic acid
At room temperature, potassium permanganate (700 mg) and trioctylmethylammonium chloride (one drop) were dissolved in a mixed solvent of water (20 ml) and benzene (20 ml). To the resulting solution, 2-(furan-2-yl)-5-(pyridin-4-yl)pyrazine (700 mg) was added in portions, followed by stirring at room temperature for 17 hours. After ethanol was added to the reaction mixture to decompose excess potassium permanganate, the solvent was distilled off. To the residue, water (100 ml) was added and the mixture was filtered through Celite. To the filtrate, 1N hydrochloric acid was added to adjust its pH to 6. The solvent was distilled off until the precipitation of colorless crystals. The colorless crystals were collected by filtration, whereby the title compound (491 mg, 79%) was obtained.

reactant | potassium permanganate | 700 mg | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | 2-(furan-2-yl)-5-(pyridin-4-yl)pyrazine | 700 mg | O1C(=CC=C1)C1=NC=C(N=C1)C1=CC=NC=C1 | C13H9N3O
reactant | ethanol | C(C)O | C2H6O
catalyst | trioctylmethylammonium chloride | one drop | [Cl-].C(CCCCCCC)[N+](C)(CCCCCCCC)CCCCCCCC
solvent | water | 20 ml | O | H2O
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 5-(Pyridin-4-yl)pyrazine-2-carboxylic acid | N1=CC=C(C=C1)C=1N=CC(=NC1)C(=O)O | C10H7N3O2
